US05602253
(iv) (3RS)-1-(N-benzyloxycarbonylamidino)-3-azidomethyl pyrrolidine
0.450 g (1.27 mmole) (3RS)-1-(N-benzyloxycarbonylamidino)-3-mesyloxymethyl pyrrolidine and 0.124 g (1.9 mmole) of sodium azide were dissolved in 10 ml dimethylformamide and heated to 60° C. for four hours followed by stirring at room temperature over night. Water was added and the mixture was extracted twice with toluene/ethyl-acetate 2/1. The combined organic layer was dried (Na2SO4), filtered and evaporated. The crude product was purified by flash chromatography using CH2Cl2 /MeOH 95/5 as eluent to yield 0.262 g (68%) of the product.

reactant | (3RS)-1-(N-benzyloxycarbonylamidino)-3-mesyloxymethyl pyrrolidine | 1.27 mmole, 0.450 g | C(C1=CC=CC=C1)OC(=O)NC(=N)N1CC(CC1)COS(=O)(=O)C | C15H21N3O5S
reactant | sodium azide | 1.9 mmole, 0.124 g | [N-]=[N+]=[N-].[Na+]
reactant | Water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (3RS)-1-(N-benzyloxycarbonylamidino)-3-azidomethyl pyrrolidine | 0.262 g, 68% | C(C1=CC=CC=C1)OC(=O)NC(=N)N1CC(CC1)CN=[N+]=[N-] | C14H18N6O2
